US05149767
5.66 g (20 mmol) of di-(4-chlorobenzyl) sulfide are reacted with 2.6 g (24 mmol) of benzyl alcohol and 8.13 g (50 mmol) of 54% by weight HBF4 in 20 ml of methylene chloride as described in Example 3a). 7.44 g (80% of theory) of di-(4-chlorobenzyl)-benzylsulfonium tetrafluoroborate are obtained as white crystals of melting point 123°-125° C.

reactant | di-(4-chlorobenzyl) sulfide | 20 mmol, 5.66 g | ClC1=CC=C(CSCC2=CC=C(C=C2)Cl)C=C1 | C14H12Cl2S
reactant | benzyl alcohol | 24 mmol, 2.6 g | C(C1=CC=CC=C1)O | C7H8O
reactant | HBF4 | [H+].[B-](F)(F)(F)F
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | di-(4-chlorobenzyl)-benzylsulfonium tetrafluoroborate | 7.44 g, 80% | F[B-](F)(F)F.ClC1=CC=C(C[S+](CC2=CC=CC=C2)CC2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C21H19Cl2S.BF4/c22-20-10-6-18(7-11-20)15-24(14-17-4-2-1-3-5-17)16-19-8-12-21(23)13-9-19;2-1(3,4)5/h1-13H,14-16H2;/q+1;-1
